US07429665B2
3-Fluoro-N-methoxyl-N-methyl-4-(quinolin-2-ylmethoxy)-benzamide
Following the procedure for the preparation of N-Methoxy-N-methyl-4-(quinolin-2-ylmethoxy)-benzamide but substituting 3-Fluoro-4-(quinolin-2-ylmethoxy)-benzoic acid provided the title compound. MS: (M+H m/z=341.2).

reactant | N-Methoxy-N-methyl-4-(quinolin-2-ylmethoxy)-benzamide | CON(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)=O)C | C19H18N2O3
reactant | 3-Fluoro-4-(quinolin-2-ylmethoxy)-benzoic acid | FC=1C=C(C(=O)O)C=CC1OCC1=NC2=CC=CC=C2C=C1 | C17H12FNO3
product | 3-Fluoro-N-methoxyl-N-methyl-4-(quinolin-2-ylmethoxy)-benzamide | FC=1C=C(C(=O)N(C)OC)C=CC1OCC1=NC2=CC=CC=C2C=C1 | C19H17FN2O3
